US09351965B2
To the mixture of tert-butyl 3-oxocyclohexylcarbamate (5 mmol, 1.065 g), 3-fluorophenol (5 mmol, 560 mg) and NaOH (25 mmol, 1 g) in THF at 0° C. was added bromoform (25 mmol, 2.2 mL) dropwise. The reaction mixture was allowed to warm to room temperature and stirred for overnight. The reaction mixture was concentrated. The product, 3-(tert-butoxycarbonylamino)-1-(3-fluorophenoxy)cyclohexanecarboxylic acid, was obtained (60 mg, 3% yield) after purification by reverse phase HPLC.

reactant | tert-butyl 3-oxocyclohexylcarbamate | 5 mmol, 1.065 g | O=C1CC(CCC1)NC(OC(C)(C)C)=O | C11H19NO3
reactant | 3-fluorophenol | 5 mmol, 560 mg | FC=1C=C(C=CC1)O | C6H5FO
reactant | NaOH | 25 mmol, 1 g | [OH-].[Na+]
reactant | bromoform | 25 mmol, 2.2 mL | C(Br)(Br)Br | CHBr3
reactant | THF | C1CCOC1 | C4H8O
product | 3-(tert-butoxycarbonylamino)-1-(3-fluorophenoxy)cyclohexanecarboxylic acid | 3% yield | C(C)(C)(C)OC(=O)NC1CC(CCC1)(C(=O)O)OC1=CC(=CC=C1)F | C18H24FNO5
